US06329372B1
Methyl 4-[2(2,6-dichlorophenyl)-2-hydroxyethyl]benzoate
A solution of methyl 4-(bromomethyl)benzoate (2.0 g, 8.7 mmol) in THF (4.4 ml) was added slowly to cut zinc foil (683 mg, 10.44 mmol) which had been activated with 1,2-dibromoethane (80 mg). After 3 h of stirring at room temperature 2 ml of the solution was referred to a solution of copper cyanide (396 mg, 4.4 mmol) and lithium chloride (356 mg, 8.4 mmol) in THF (4 ml) cooled to −78°. This solution was warmed to −20° and then cooled back to −78°. Boron trifluoride etherate (983 μl, 8 mmol) was then added followed by 2,6-dichlorobenzaldehyde (0.56 g, 3.2 mmol) in THF (1 ml). The reaction was stirred for 2 h and then allowed to warm slowly to room temperature. Water (20 ml) was then added and the reaction mixture extracted into EtOAc (3×25 ml) and the combined organics dried (Na2SO4) and evaporated. Purification by column chromatography (SiO2; hexane:EtOAc. 4:1) gave the title compound as a colourless oil (863 mg, 83%). δH (CDCl3) 7.95 (2H, m, ArH), 7.93-7.26 (4H, m, ArH), 7.17-7.12 (1H, m, ArH), 5.73-5.65 (1H, m, CH), 3.91 (3H, s, CO2Me), 3.43 (1H, dd, J 13.5, 8.4 Hz, CHAB4}L ) and 3.28 (1H, dd, J 13.5, 6.3Hz, CHAHB), m/z (ESI, 60V) 325(MH+).

reactant | methyl 4-(bromomethyl)benzoate | 8.7 mmol, 2.0 g | BrCC1=CC=C(C(=O)OC)C=C1 | C9H9BrO2
reactant | 1,2-dibromoethane | 80 mg | BrCCBr | C2H4Br2
reactant | copper cyanide | 4.4 mmol, 396 mg | [Cu](C#N)C#N
reactant | lithium chloride | 8.4 mmol, 356 mg | [Cl-].[Li+]
reactant | Boron trifluoride etherate | 8 mmol, 983 μl | B(F)(F)F.CCOCC
reactant | 2,6-dichlorobenzaldehyde | 3.2 mmol, 0.56 g | ClC1=C(C=O)C(=CC=C1)Cl | C7H4Cl2O
solvent | THF | 4.4 ml | C1CCOC1 | C4H8O
solvent | THF | 4 ml | C1CCOC1 | C4H8O
solvent | THF | 1 ml | C1CCOC1 | C4H8O
catalyst | zinc | [Zn] | Zn
solvent | Water | 20 ml | O | H2O
product | Methyl 4-[2(2,6-dichlorophenyl)-2-hydroxyethyl]benzoate | 863 mg, 83% | ClC1=C(C(=CC=C1)Cl)C(CC1=CC=C(C(=O)OC)C=C1)O | C16H14Cl2O3
